US08471005B2
To a solution of 4-{2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester (250 mg, 0.54 mmol) in methanol (20 mL) was added 10% Palladium on Carbon (50% Wet, 58 mg, 0.027 mmol). The mixture was shaken in a Parr apparatus under an atmosphere of Hydrogen (50 PSI) overnight. Filtration through Celite and evaporation of the solvent provided crude 4-{2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester, which was used without further purification.

reactant | 4-{2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CN1CCC(=CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C23H32N4O6
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium on Carbon | 0.027 mmol, 58 mg | [Pd] | Pd
product | 4-{2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CN1CCC(CC1)C1=CC(=C(C=C1)N)OC)=O | C23H36N4O4
